US06117875
A mixture of 3-[(E)-2-(3-aminophenyl)vinyl]-5-bromopyridine (3.5 g), 2-chloro-3-nitropyridine (2.22 g) and potassium carbonate (2.64 g) in 1,4-dioxane (30 ml) was stirred under reflux for 22 hours. The mixture was filtered and the filtrate was concentrated. The resultant solid was washed with ethanol to give 2-[3-[(E)-2-(5-bromo pyridin-3-yl)vinyl]phenylamino]-3-nitropyridine (1.63 g).

reactant | 3-[(E)-2-(3-aminophenyl)vinyl]-5-bromopyridine | 3.5 g | NC=1C=C(C=CC1)/C=C/C=1C=NC=C(C1)Br | C13H11BrN2
reactant | 2-chloro-3-nitropyridine | 2.22 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 2.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-[3-[(E)-2-(5-bromo pyridin-3-yl)vinyl]phenylamino]-3-nitropyridine | 1.63 g | BrC=1C=C(C=NC1)/C=C/C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C18H13BrN4O2
